US09120822B2
Potassium carbonate (2.49 g, 18.03 mmol, 3.0 eq) is added at room temperature to a stirred solution of 2-bromo-[trans-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-cyclohexyl]-N-(4-hydroxy-6-methoxy-[1,5]naphthyridin-3-yl)-acetamide (3.24 g, 6.01 mmol, 1.0 eq) in N,N-dimethylformamide (30 mL). After 16 hours stirring at room temperature and 2 hours stirring at 55° C., solvent is removed and the residue is purified by column chromatography (silica gel, eluent: dichloromethane:methanol, 50:1, v/v) to afford 2-[trans-4-(6-methoxy-2-oxo-2,3-dihydro-1H-4-oxa-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-isoindole-1,3-dione as a light yellow solid (1.35 g, 49% yield).

reactant | Potassium carbonate | 18.03 mmol, 2.49 g, 3.0 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-[trans-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-cyclohexyl]-N-(4-hydroxy-6-methoxy-[1,5]naphthyridin-3-yl)-acetamide | 6.01 mmol, 3.24 g, 1.0 eq | BrC(C(=O)NC=1C=NC2=CC=C(N=C2C1O)OC)[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O | C25H23BrN4O5
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2-[trans-4-(6-methoxy-2-oxo-2,3-dihydro-1H-4-oxa-1,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-isoindole-1,3-dione | 1.35 g, 49% yield | COC=1N=C2C=3OC(C(NC3C=NC2=CC1)=O)[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O | C25H22N4O5
